* source PROIECT_CEF2_AAF
R_R14         N663861 N66336  150 TC=0,0 
Q_Q5         N67056 N67354 N67488 QBC846B 
Q_Q6         N67316 N67354 N67504 QBC846B 
Q_Q1         N66648 VIN N67056 QBC846B 
C_C1         N66648 N66814  470p  TC=0,0 
R_R8         N67038 VOUT  8.2k TC=0,0 
Q_Q3         N66648 N66616 N66482 QBC856B 
X_U2         N675241 N66858 1N4148 
R_R3         N66488 N66336  220 TC=0,0 
R_R15         N66858 N675521  150 TC=0,0 
Q_Q4         N66616 N66616 N66488 QBC856B 
R_R4         N66858 N67488  470 TC=0,0 
R_R2         N66482 N66336  220 TC=0,0 
R_R11         N670721 N669241  22 TC=0,0 
R_R6         N66858 N67504  330 TC=0,0 
V_V1         VIN 0  AC 480m
+SIN 0 480m 1k 0 0 0
X_U1         N67354 N675241 1N4148 
Q_Q7         N66814 N66648 N66606 QBC856B 
R_R1         0 VIN  220k TC=0,0 
R_R7         N66606 N66336  330 TC=0,0 
X_U3         N66814 N66990 1N4148 
R_R16         N664601 N663861  82 TC=0,0 
R_R9         0 N67038  910 TC=0,0 
R_R5         N67354 0  2.2k TC=0,0 
R_R17         N675521 N67935  82 TC=0,0 
C_C2         N66606 N66336  1u  TC=0,0 
X_U4         N66990 N67316 1N4148 
V_Vdd         N66336 0 8Vdc
R_R12         N672161 N670721  22 TC=0,0 
Q_Q9         N66858 N67316 VOUT QBC856B 
V_Vss         0 N66858 8Vdc
Q_Q8         N66336 N66814 VOUT QBC846B 
Q_Q2         N66616 N67038 N67056 QBC846B 
R_R10         N669241 VOUT  22 TC=0,0 
X_D1         N664601 0 LED PARAMS: IS=1.7603e-027 RS=3  BV=5 IBV=5e-6         
X_D2         0 N67935 LED PARAMS: IS=1.7603e-027 RS=3  BV=5 IBV=5e-6         
R_R13         0 N672161  10 TC=0,0 
